US07763608B2
A mixture of 1-(4-iodophenyl)pyridin-2(1H)-one prepared above (0.760 g, 2.56 mmol), NaHCO3 (2.15 g, 25.6 mmol) and P2S5 (2.27 g, 10.2 mmol) in dioxane (20 mL) was heated at 80° C. overnight. After being cooled to room temperature, water and CH2Cl2 were added. The organic layer was separated, washed with brine, dried over Na2SO4, concentrated in vacuo to give 1-(4-iodophenyl)pyridine-2(1H)-thione as a solid (0.752 g). MS 313.8 (M+H).

reactant | 1-(4-iodophenyl)pyridin-2(1H)-one | IC1=CC=C(C=C1)N1C(C=CC=C1)=O | C11H8INO
reactant | NaHCO3 | 25.6 mmol, 2.15 g | C(=O)(O)[O-].[Na+]
reactant | P2S5 | 10.2 mmol, 2.27 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | water | O | H2O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(4-iodophenyl)pyridine-2(1H)-thione | 0.752 g | IC1=CC=C(C=C1)N1C(C=CC=C1)=S | C11H8INS
